US06384033B1
N-Isopropyl-2,4-difluorobenzamide
The title compound (0.3804 g; 95%) was prepared by the same method as that described in Example 1, using 2,4-difluorobenzoyl chloride (0.3532 g, 2.00 mmol) and isopropylamine (0.26 ml, 3.05 mmol).

reactant | 2,4-difluorobenzoyl chloride | 2.00 mmol, 0.3532 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | isopropylamine | 3.05 mmol, 0.26 ml | C(C)(C)N | C3H9N
product | N-Isopropyl-2,4-difluorobenzamide | 0.3804 g, 95% | C(C)(C)NC(C1=C(C=C(C=C1)F)F)=O | C10H11F2NO
